US05663189
6-(2-Imidazolinylamino-7-methyl-2,3-dihydrobenzofuran hemiacetate. The above crude 6-[N'-(2-aminoethyl)thioureido]-7-methyl-2,3-dihydrobenzofuran is dissolved in 3 mL of methanol and treated with 0.25 g of mercuric acetate, forming a black color. The reaction mixture is stirred overnight at room temperature. The reaction mixture is filtered through celite, concentrated, and purified by silica gel chromatography to provide 0.131 g of 6-(2-imida zolinylamino)-7-methyl-2,3-dihydrobenzofuran as the hemiacerate salt.

reactant | 2-Imidazolinylamino-7-methyl-2,3-dihydrobenzofuran hemiacetate | C(C)(=O)O.N1(C=NCC1)NC1OC2=C(C1)C=CC=C2C.N2(C=NCC2)NC2OC1=C(C2)C=CC=C1C
reactant | 6-[N'-(2-aminoethyl)thioureido]-7-methyl-2,3-dihydrobenzofuran | NCCNC(NC1=C(C2=C(CCO2)C=C1)C)=S | C12H17N3OS
solvent | methanol | 3 mL | CO | CH4O
product | 6-(2-imida zolinylamino)-7-methyl-2,3-dihydrobenzofuran | 0.131 g | N1(C=NCC1)NC1=C(C2=C(CCO2)C=C1)C | C12H15N3O
